US09193733B2
Step A. [2-Chloro-6-(trifluoromethyl)pyridin-4-yl]methanol
Sodium tetrahydroborate (74 mg, 2.0 mmol) was added to a solution of ethyl 2-chloro-6-(trifluoromethyl)isonicotinate (0.50 g, 2.0 mmol, Anichem) in ethanol (17 mL) at 0° C. The mixture was stirred at 0° C. for one hour, then was allowed to warm to room temperature and stir for 2 hours. The mixture was recooled in an ice bath and was quenched by the dropwise addition of 4.0 mL 1N HCl. The pH was then adjusted to 7 by the addition of saturated sodium bicarbonate solution. The reaction was further diluted with water, and then was extracted with EtOAc. The extract was washed with brine, dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel, eluting with a gradient from 0-40% EtOAc in Hexanes afforded product as an oil (0.33 g, 79%). 1H NMR (300 MHz, CDCl3) δ 7.61 (s, 1H), 7.56 (s, 1H), 4.84 (d, J=5.2 Hz, 2H), 2.20 (t, J=5.6 Hz, 1H); LCMS (M+H)+: 212.1.

reactant | Sodium tetrahydroborate | 2.0 mmol, 74 mg | [BH4-].[Na+]
reactant | ethyl 2-chloro-6-(trifluoromethyl)isonicotinate | 2.0 mmol, 0.50 g | ClC=1C=C(C(=O)OCC)C=C(N1)C(F)(F)F | C9H7ClF3NO2
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | [2-Chloro-6-(trifluoromethyl)pyridin-4-yl]methanol | ClC1=NC(=CC(=C1)CO)C(F)(F)F | C7H5ClF3NO
